US06794389B2
cis-4-Aminomethyl-N-{2-[2-(2-pyridyl)ethenyl]-6-methoxyquinazolin-4-yl}cyclohexylamine
A solution of cis-4-trifluoroacetylaminomethyl-N-{2-[2-(2-pyridyl)ethenyl]-6-methoxyquinazolin-4-yl}cyclohexylamine in 45 mL of methanol and 5 mL of water was combined with 414 mg of potassium carbonate, and stirred at room temperature for 15 hours. The reaction solution was combined with water, extracted with chloroform, and then dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (chloroform:methanol:aqueous ammonia=100:10:1) to obtain 120 mg of the desirable compound.

reactant | cis-4-trifluoroacetylaminomethyl-N-{2-[2-(2-pyridyl)ethenyl]-6-methoxyquinazolin-4-yl}cyclohexylamine | FC(C(=O)NC[C@H]1CC[C@H](CC1)NC1=NC(=NC2=CC=C(C=C12)OC)C=CC1=NC=CC=C1)(F)F | C25H26F3N5O2
reactant | potassium carbonate | 414 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 45 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | cis-4-Aminomethyl-N-{2-[2-(2-pyridyl)ethenyl]-6-methoxyquinazolin-4-yl}cyclohexylamine | 120 mg | NC[C@H]1CC[C@H](CC1)NC1=NC(=NC2=CC=C(C=C12)OC)C=CC1=NC=CC=C1 | C23H27N5O
